* environment: quiet {} code 255
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.option temp=27
.include /work/analog/spice/tt_analog_ring.spice
Vdd VPWR 0 dc 1.2
Vc0 code[0] VPWR 0
Vc1 code[1] VPWR 0
Vc2 code[2] VPWR 0
Vc3 code[3] VPWR 0
Vc4 code[4] VPWR 0
Vc5 code[5] VPWR 0
Vc6 code[6] VPWR 0
Vc7 code[7] VPWR 0
Ven enable VPWR 0
Xdut code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] enable clk_out VPWR 0 tt_analog_ring
Cload clk_out 0 15f

.control
tran 2.008e-11 6.024e-07
let ts = 6.024e-08
meas tran vmin_out min v(clk_out) from=$&ts
meas tran vmax_out max v(clk_out) from=$&ts




wrdata clk.txt v(clk_out)
.endc
.end
